US07375115B2
Triethyl 3-[1-(2-hydroxyethyl)cyclohexyl]-1,1,1-propanetricarboxylate
To a solution of triethyl 3-[1-[2-(tert-butyldiphenylsiloxy)ethyl]cyclohexyl]-1,1,1-propanetricarboxylate (470 mg) in methanol (10 mL)/tetrahydrofuran (5 mL) was added 3N hydrochloric acid (2.5 mL) at room temperature. After stirring the solution at room temperature for 4 hours, water was added to the solution, and it was concentrated under reduced pressure. The solution was extracted with ethyl acetate. The organic layer was washed in turn with water and saturated aqueous sodium chloride solution. The solution was dried over anhydrous magnesium sulfate, and then, concentrated under reduced pressure. The resulting residue was purified by chromatography (silica gel, hexane:ethyl acetate=1:1) to give the title compound (230 mg).

reactant | triethyl 3-[1-[2-(tert-butyldiphenylsiloxy)ethyl]cyclohexyl]-1,1,1-propanetricarboxylate | 470 mg | O([Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)CCC1(CCCCC1)CCC(C(=O)OCC)(C(=O)OCC)C(=O)OCC | C36H52O7Si
reactant | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
reactant | hydrochloric acid | 3N, 2.5 mL | Cl | ClH
reactant | water | O | H2O
solvent | methanol | 10 mL | CO | CH4O
product | Triethyl 3-[1-(2-hydroxyethyl)cyclohexyl]-1,1,1-propanetricarboxylate | 230 mg | OCCC1(CCCCC1)CCC(C(=O)OCC)(C(=O)OCC)C(=O)OCC | C20H34O7
